US06960579B1
A solution 6-chloro-3,4-dihydro-2H-thieno[3,2-e]-1,2-thiazine-4-ol 1,1-dioxide (9.0 g, 37.6 mmol) in dimethylformamide (200 mL, anhydrous) and sodium hydride (60% in oil, 1.66 g, 41.5 mmol) was reacted with 1,4-dibromobutane at 0°. The reaction was stirred in an ice bath for 30 min and then it was allowed to warm to room temperature and stir for three days. The mixture was poured into ice water (400 mL) and extracted with diethyl ether (2×200 mL). The combined organic layers were washed with water (200 mL), brine (200 mL) and then were dried over magnesium sulfate and evaporated. The resulting residue was purified by silica gel flash chromatography with hexane/ethyl acetate (7:3) to give 6-chloro-3,4-dihydro-2-(4-bromobutyl)-2H-thieno[3,2-e]-1,2-thiazine-4-ol 1,1-dioxide as a colorless oil (10.62 g, 75%); the 1H NMR was consistent with the structure.

reactant | 6-chloro-3,4-dihydro-2H-thieno[3,2-e]-1,2-thiazine-4-ol 1,1-dioxide | 37.6 mmol, 9.0 g | ClC1=CC=2C(CNS(C2S1)(=O)=O)O | C6H6ClNO3S2
reactant | sodium hydride | 41.5 mmol, 1.66 g | [H-].[Na+]
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 6-chloro-3,4-dihydro-2-(4-bromobutyl)-2H-thieno[3,2-e]-1,2-thiazine-4-ol 1,1-dioxide | 10.62 g, 75% | ClC1=CC=2C(CN(S(C2S1)(=O)=O)CCCCBr)O | C10H13BrClNO3S2
